US08895582B2
To a solution of Isoquinolin-3-yl-carbamic acid 2-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-3-[3-(diethoxy-phosphoryloxy)-2-hydroxy-propoxy]-propyl ester (0.60 g, 0.895 mmol) in acetonitrile (30 mL) was added TMSI (1.43 g, 7.16 mmol) dropwise at 0° C. After stirring at 0° C. for 4.5 h, the reaction was quenched with EtOH. The solvent was removed, and the resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O (0.1% TFA buffer) to give isoquinolin-3-yl-carbamic acid 2-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-3-(2-hydroxy-3-phosphonooxy-propoxy)-propyl ester (396 mg, 73%). LRMS [M−H]+ m/z 613.5

reactant | Isoquinolin-3-yl-carbamic acid 2-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-3-[3-(diethoxy-phosphoryloxy)-2-hydroxy-propoxy]-propyl ester | 0.895 mmol, 0.60 g | ClC1=C(CNC(N(C)C(COC(NC=2N=CC3=CC=CC=C3C2)=O)COCC(COP(=O)(OCC)OCC)O)=O)C=CC=C1F | C29H37ClFN4O9P
reactant | TMSI | 7.16 mmol, 1.43 g | [Si](C)(C)(C)I | C3H9ISi
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | isoquinolin-3-yl-carbamic acid 2-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-3-(2-hydroxy-3-phosphonooxy-propoxy)-propyl ester | 396 mg, 73% | ClC1=C(CNC(N(C)C(COC(NC=2N=CC3=CC=CC=C3C2)=O)COCC(COP(=O)(O)O)O)=O)C=CC=C1F | C25H29ClFN4O9P
